US05252653
2,2-bis-(4-hydroxy phenyl)propane;
hydroquinone; resorcinol; 2,2-bis-(4-hydroxy phenyl)pentane;

reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2,2-bis-(4-hydroxy phenyl)pentane | OC1=CC=C(C=C1)C(C)(CCC)C1=CC=C(C=C1)O | C17H20O2
product | 2,2-bis-(4-hydroxy phenyl)propane | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
